US07943634B2
Step 4: 7-Hydroxy-2-methylbenzo[b]furan-4-carbaldehyde
To a freshly prepared solution of sodium-4-methyl benzene thiolate (prepared from 42 g of 4-methyl benzene thiol and 14 g of sodium hydroxide) in toluene (700 mL) was added 7-methoxy-2-methylbenzo[b]furan-4-carboxaldehyde (50.0 g) at reflux. Then HMPA (62.0 g) was added slowly and reaction mixture was stirred at the same temperature for 4-5 hr. reaction mixture was then bring to 50-60° C., water (500 mL) was added and layers were separated. The aqueous layer was acidified (pH 4-5). The solid separated was filtered, washed with water (3×200 mL) and dried to get light yellow solid product (44.0 g).

reactant | 7-methoxy-2-methylbenzo[b]furan-4-carboxaldehyde | 50.0 g | COC1=CC=C(C2=C1OC(=C2)C)C=O | C11H10O3
reactant | HMPA | 62.0 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | water | 500 mL | O | H2O
solvent | toluene | 700 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Hydroxy-2-methylbenzo[b]furan-4-carbaldehyde | 44.0 g | OC1=CC=C(C2=C1OC(=C2)C)C=O | C10H8O3
